US04849421
A mixture of 4 g of 5-oxo-2,3,4,5-tetrahydro-[1]benzothiepine-4-acetic acid, 3.5 g of 4-methoxyphenylhydrazine hydrochloride and 1.8 g of sodium acetate in 100 ml of ethanol is refluxed under heating for 12 hours and then the solvent is distilled off. To the residue is added 20 ml of acetic acid and the mixture is refluxed under heating for 2 hours. The solvent is distilled off, and the mixture of the residue in water is extracted with ethyl acetate. The organic layer is washed with water, dried over anhydrous magnesium sulfate and the solvent is distilled off. The crude product obtained is purified by column chromatography and recrystallized from ethanol to give 1.9 g of 2-(4-methoxyphenyl)-4,4a,5,6-tetrahydro-[1]benzothiepino[5,4-c]pyridazin-3(2H)-one, melting at 143°-145° C.

reactant | 5-oxo-2,3,4,5-tetrahydro-[1]benzothiepine-4-acetic acid | 4 g | O=C1C(CCSC2=C1C=CC=C2)CC(=O)O | C12H12O3S
reactant | 4-methoxyphenylhydrazine hydrochloride | 3.5 g | Cl.COC1=CC=C(C=C1)NN
reactant | sodium acetate | 1.8 g | C(C)(=O)[O-].[Na+]
solvent | ethanol | 100 ml | C(C)O | C2H6O
product | 2-(4-methoxyphenyl)-4,4a,5,6-tetrahydro-[1]benzothiepino[5,4-c]pyridazin-3(2H)-one | 1.9 g | COC1=CC=C(C=C1)N1N=C2C(CC1=O)CCSC1=C2C=CC=C1 | C19H18N2O2S
